US05556864
34(a) (4R)-4-Benzyloxy-1-t-butoxycarbonyl-2-[2-(4-phenylbutyl) phenoxymethyl]pyrrolidine
441 mg of 2-(4-phenylbutyl)phenol (prepared as described in Preparation 3) and 241 mg of potassium t-butoxide were dissolved, with ice-cooling and stirring, in 20 ml of dimethylacetamide. 900 mg of (4R)-4-benzyloxy-1-t-butoxycarbonyl-2-(p-toluenesulfonyloxymethyl)pyrrolidine were then added to the solution thus obtained, and the resulting mixture was stirred at 40° C. for 5 hours. At the end of this time, the reaction mixture was cooled and partitioned between ethyl acetate and water. The organic layer was dried over anhydrous sodium sulfate, and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 242 mg (yield 24%) of the title compound as a colorless oil.

reactant | 2-(4-phenylbutyl)phenol | 441 mg | C1(=CC=CC=C1)CCCCC1=C(C=CC=C1)O | C16H18O
reactant | potassium t-butoxide | 241 mg | CC(C)([O-])C.[K+]
reactant | (4R)-4-benzyloxy-1-t-butoxycarbonyl-2-(p-toluenesulfonyloxymethyl)pyrrolidine | 900 mg | C(C1=CC=CC=C1)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C=C1)C | C24H31NO6S
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | (4R)-4-Benzyloxy-1-t-butoxycarbonyl-2-[2-(4-phenylbutyl) phenoxymethyl]pyrrolidine | 242 mg, yield 24% | C(C1=CC=CC=C1)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)COC1=C(C=CC=C1)CCCCC1=CC=CC=C1 | C33H41NO4
